US20010014737A1
b) 3-Bis(tert-butoxycarbonyl)aminomethyl-4-bromoanisole
A mixture of 4-bromo-3-bromomethylanisole (24 g, 86 mmol) and potassium di-tert-butyl iminodicarboxylate (24 g, 94 mmol) in dimethylformamide (200 mL) was stirred under argon at room temperature for 18 hr. The reaction was then concentrated under vacuum and the residue was partitioned between ethyl acetate and water. The organic phase was washed with water and brine, dried(MgSO4), and concentrated. The residue was recrystallized from hexane to give the title compound (15 g, 42%) as a white solid: 1H NMR (CDCl3) δ7.40 (d, J=8.6 Hz, 1 H)), 6.68 (m, 2 H), 4.81(s, 2 H), 3.74 (s, 3 H), 1.44 (s, 18 H).

reactant | 4-bromo-3-bromomethylanisole | 86 mmol, 24 g | BrC1=C(C=C(C=C1)OC)CBr | C8H8Br2O
reactant | potassium di-tert-butyl iminodicarboxylate | 94 mmol, 24 g | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C.[K]
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 3-Bis(tert-butoxycarbonyl)aminomethyl-4-bromoanisole | 15 g, 42% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1Br)OC | C18H26BrNO5
